US04477369
4-Methyl-{4-[trans-4-(trans-4-ethylcyclohexyl)-cyclohexyl]cyclohexen-1-yl}benzene (3.2 g) was dissolved in toluene (300 ml) and Raney Ni catalyst (1.5 g) was added, followed by catalytic reduction under ordinary pressure at ordinary temperature. When the raw material disappeared through gas chromatography, the reaction finished. The solvent was distilled off and recrystallization from toluene was repeated to obtain 4-methyl-{trans-4-[trans-4-(trans-4-ethylcyclohexyl)cyclohexyl]cyclohexyl}benzene (yield: 0.8 g) having a C-Sm point of 71.0° C., a Sm-N point of 254° C. and a N-I point of 293° C.

reactant | 4-Methyl-{4-[trans-4-(trans-4-ethylcyclohexyl)-cyclohexyl]cyclohexen-1-yl}benzene | 3.2 g | CC1=CC=C(C=C1)C1=CCC(CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CC | C27H40
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Ni | 1.5 g | [Ni] | Ni
product | 4-methyl-{trans-4-[trans-4-(trans-4-ethylcyclohexyl)cyclohexyl]cyclohexyl}benzene | yield: 0.8 g | CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CC | C27H42
